US04299821
3.07 g (6 mmoles) of Z-Glp-Cha-Pro-NH2 are dissolved in 60 ml of ethanol, 0.6 g of a 10% palladium-on-carbon catalyst are added, and hydrogen is bubbled through the mixture for 2 hours. The catalyst is filtered off, the filtrate is evaporated, and the residue is triturated with ether. 2.15 g (95%) of Glp-Cha-Pro-NH2 are obtained as an amorphous solid; Rf4 =0.50, [α]D25 =-70.9° (c=1%, in acetic acid).

reactant | Z-Glp-Cha-Pro-NH2 | 6 mmoles, 3.07 g | N1([C@@H](CCC1=O)C(=O)N[C@@H](CC1CCCCC1)C(=O)N1[C@H](C(=O)N)CCC1)C(=O)OCC1=CC=CC=C1 | C27H36N4O6
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | [Pd] | Pd
product | Glp-Cha-Pro-NH2 | 2.15 g, 95% | N1[C@@H](CCC1=O)C(=O)N[C@@H](CC1CCCCC1)C(=O)N1[C@H](C(=O)N)CCC1 | C19H30N4O4
